US04547514
3-(2-Methoxyphenoxy)-1-pyrrolidinecarbonyl Chloride
To a stirred solution of 60 ml of 2 molar phosgene (0.11 mole) in benzene under nitrogen gas was added dropwise a solution of 29.3 g (0.1 mole) of 1-benzyl-3-(2-methoxyphenoxy)pyrrolidine in 100 ml of benzene. The reaction mixture was stirred at ambient temperature for 2 hours and then concentrated in vacuo to give an oil. The oil was triturated with warm 30/60 petroleum ether and the petroleum ether was decanted to remove benzyl chloride. On the third trituration the oil solidified to give 19.65 g of crude product. The combined petroleum ether decantate, on cooling, yielded an additional 4.8 g, m.p. 80°-81° C. The combined yield was 23.45 g (91.7%). Recrystallization of a 1.25 g sample from 25 ml of 30/60 petroleum ether gave fine white crystals, m.p. 80.5°-82° C. The yield of purified product based on this aliquot was 22.6 g (88%).

reactant | phosgene | 0.11 mole, 2 molar, 60 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(2-methoxyphenoxy)pyrrolidine | 0.1 mole, 29.3 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=C(C=CC=C1)OC | C18H21NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-Methoxyphenoxy)-1-pyrrolidinecarbonyl Chloride | 19.65 g | COC1=C(OC2CN(CC2)C(=O)Cl)C=CC=C1 | C12H14ClNO3
